US07902226B2
5-amino-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-8-methyl-7-[3-(R)-[1-(methylamino)cyclopropyl]pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
After adding 3-(R)-[1-[N-(tert-butoxycarbonyl)-N-(methyl)amino]cyclopropyl]pyrrolidine (690 mg, 2.25 mmol) and triethylamine (0.50 ml) to dried dimethyl sulfoxide (4 ml), 5-amino-7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (250 mg, 850 μmol) was added thereto and heated under reflux in an oil bath of 70° C. for 24 hours under a nitrogen atmosphere. After concentrating the reaction solution under a reduced pressure, the residue was dissolved in chloroform (100 ml). After washing the organic layer with a 10% aqueous citric acid solution (100 ml) and saturated saline solution (100 ml), the organic layer was dried over anhydrous sodium sulfate. After filtering, the filtrate was concentrated under a reduced pressure, and after adding dropwise concentrated hydrochloric acid (5 ml) to the residue while cooling with ice, it was stirred at room temperature for 30 minutes. After adding 1 mol/l hydrochloric acid (2 ml) to the reaction solution and washing the yellow acidic aqueous solution with chloroform (50 ml×3), the pH was adjusted to 12.0 with an aqueous sodium hydroxide solution. After adjusting the pH of the basic aqueous solution to 7.4 with 1 mol/l hydrochloric acid, extraction with chloroform (100 ml×3) was performed. After drying over anhydrous sodium sulfate, the solvent was evapolated under a reduced pressure. The residue thus obtained was then purified by preparative chromatography (developed into the lower layer of a 7:3:1 mixture of chloroform:methanol:water), purified further by recrystallization from ethanol, and then dried under a reduced pressure. 70.0 mg (20%) of the title compound was thereby obtained in the form of yellow crystals.

reactant | 3-(R)-[1-[N-(tert-butoxycarbonyl)-N-(methyl)amino]cyclopropyl]pyrrolidine | 2.25 mmol, 690 mg | C(C)(C)(C)OC(=O)N(C)C1(CC1)[C@H]1CNCC1 | C13H24N2O2
reactant | triethylamine | 0.50 ml | C(C)N(CC)CC | C6H15N
reactant | 5-amino-7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 850 μmol, 250 mg | NC1=C2C(C(=CN(C2=C(C(=C1)F)C)[C@H]1[C@H](C1)F)C(=O)O)=O | C14H12F2N2O3
solvent | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
product | 5-amino-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-8-methyl-7-[3-(R)-[1-(methylamino)cyclopropyl]pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 70.0 mg, 20% | NC1=C2C(C(=CN(C2=C(C(=C1)N1C[C@@H](CC1)C1(CC1)NC)C)[C@H]1[C@H](C1)F)C(=O)O)=O | C22H27FN4O3
